US08283353B2
4′-[(4-butyl-2-hydrazino-6-oxo-1,6-dihydropyrimidin-5-yl)methyl]biphenyl-2-carbonitrile
A mixture of 4′-{[4-butyl-2-(methylsulfanyl)-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile (3.5 g), hydrazine hydrate (10 mL) and n-butanol (100 mL) was stirred at 120° C. for 6 hr. The reaction mixture was cooled to room temperature, and the precipitated solid was collected by filtration. The obtained solid was washed with methanol to give the title compound as a colorless solid (2.6 g, 77%).

reactant | 4′-{[4-butyl-2-(methylsulfanyl)-6-oxo-1,6-dihydropyrimidin-5-yl]methyl}biphenyl-2-carbonitrile | 3.5 g | C(CCC)C=1N=C(NC(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)SC | C23H23N3OS
reactant | hydrazine hydrate | 10 mL | O.NN
solvent | n-butanol | 100 mL | C(CCC)O | C4H10O
product | 4′-[(4-butyl-2-hydrazino-6-oxo-1,6-dihydropyrimidin-5-yl)methyl]biphenyl-2-carbonitrile | 2.6 g, 77% | C(CCC)C=1N=C(NC(C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)=O)NN | C22H23N5O
